US06767912B2
Preparation of 3-(1H-Indol-3-yl)-1-methylpyrrolidine-2,5-dione
A mixture of indole (3.14 g) and N-methylmaleimide (6.2 g, 3 equiv.) in acetic acid is heated at 105° C. for 16 hr, cooled to room temperature, held for 16 hr and filtered. The filtercake is washed with acetic acid and dried to afford the title product, 5.5 g, identified by HPLC and mass spectral analyses.

reactant | indole | 3.14 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | N-methylmaleimide | 6.2 g, 3 equiv. | CN1C(C=CC1=O)=O | C5H5NO2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(1H-Indol-3-yl)-1-methylpyrrolidine-2,5-dione | N1C=C(C2=CC=CC=C12)C1C(N(C(C1)=O)C)=O | C13H12N2O2
